US06037354
To a suspension of palladium on carbon (1.1 g) in 100 mL ethylacetate was added the mixture of 4-(2-Fluoro-phenyl)-cyclohex-3-enone and 4-(2-Fluorophenyl)-cyclohex-2-enone (5.1 g) under argon. The suspension was placed under 50 psi hydrogen for 36 h, filtered through celite, concentrated in vacuo, and passed through silica (10% ethylacetate, hexane) to give 4-(2-fluorophenyl)-cyclohexanone (3.5 g).

reactant | 4-(2-Fluoro-phenyl)-cyclohex-3-enone | FC1=C(C=CC=C1)C1=CCC(CC1)=O | C12H11FO
reactant | 4-(2-Fluorophenyl)-cyclohex-2-enone | 5.1 g | FC1=C(C=CC=C1)C1C=CC(CC1)=O | C12H11FO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.1 g | [Pd] | Pd
solvent | ethylacetate | 100 mL | C(C)OC(C)=O | C4H8O2
product | 4-(2-fluorophenyl)-cyclohexanone | 3.5 g | FC1=C(C=CC=C1)C1CCC(CC1)=O | C12H13FO
